US06262292B1
Moreover, the present inventors have found that reaction of the cyanobenzaldehyde compounds as starting materials and a hypohalogenous compound in water or a mixed solvent of water and an aprotic polar solvent affords cyanobenzoic acid compounds in a high purity and in a high yield.

reactant | cyanobenzaldehyde | C(#N)C1=C(C=O)C=CC=C1 | C8H5NO
reactant | water | O | H2O
product | cyanobenzoic acid | C(#N)C1=C(C(=O)O)C=CC=C1 | C8H5NO2
